US09278977B2
Synthesis of 5-chloromethyl-2,3-pyridine dicarboxylic acid anhydride (Ia)
106.8 g (0.65 mol) of 5-methyl-2,3-pyridine dicarboxylic acid anhydride were dissolved in 427 g chlorobenzene and heated up to 85° C. A solution of 0.64 g (0.004 mol) AIBN in 99.0 g (0.66 mol) SO2Cl2 was added during 45 min. The mixture was stirred for additional 90 min at 85° C. Chlorobenzene was partly distilled off and the solution was cooled to 10° C. via 10 h ramp. The precipitate was filtered off and washed with chlorobenzene/hexane.

reactant | 5-methyl-2,3-pyridine dicarboxylic acid anhydride | 0.65 mol, 106.8 g | CC=1C=C2C(=NC1)C(=O)OC2=O | C8H5NO3
reactant | AIBN | 0.004 mol, 0.64 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | chlorobenzene | 427 g | ClC1=CC=CC=C1 | C6H5Cl
product | 5-chloromethyl-2,3-pyridine dicarboxylic acid anhydride | ClCC=1C=C2C(=NC1)C(=O)OC2=O | C8H4ClNO3
